### PR TITLE
feat: mul recurrence theorems for LeanSAT

### PR DESCRIPTION
**Pull request by bollu**
This implements the recurrence theorems `getLsb_mul`, `mulRec_zero_eq`, `mulRec_succ_eq` to allow bitblasting multiplication.

### CODE REVIEW

**Comment by bollu** [comment]
The build was failing, but I was surprised as I was rebased on tip-of-tree, and my build succeeded locally, so I can't think of any immediate environment difference between local and remote.  

Turns out that I had an unused hypothesis which let me squeeze a proof a little bit.

I would like to turn on warnings as errors locally so I don't accidentally open a PR that fails CI again. How do I do this?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -159,6 +159,20 @@ theorem add_eq_adc (w : Nat) (x y : BitVec w) : x + y = (adc x y false).snd := b
 theorem allOnes_sub_eq_not (x : BitVec w) : allOnes w - x = ~~~x := by
   rw [← add_not_self x, BitVec.add_comm, add_sub_cancel]
 
+/-- Adding two bitvectors equals or-ing them if they are 1 in mutually exclusive locations. -/
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:162]:
```suggestion
/-- Addition of bitvectors is the same as bitwise or, if bitwise and is zero. -/
```
(Avoiding "or-ing".)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -159,6 +159,20 @@ theorem add_eq_adc (w : Nat) (x y : BitVec w) : x + y = (adc x y false).snd := b
...
+theorem add_eq_or_of_and_eq_zero {w : Nat} (x y : BitVec w)
+    (h : x &&& y = 0#w) : x + y = x ||| y := by
+  rw [add_eq_adc, adc, iunfoldr_replace (fun _ => false) (x ||| y)]
+  · rfl
+  · simp [adcb, atLeastTwo, h]
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:167]: Non-terminal simp.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
     x.sle y = !((x.msb == y.msb).xor (carry w y (~~~x) true)) := by
   rw [sle_eq_not_slt, slt_eq_not_carry, beq_comm]
 
+/-! ### mul recurrence for bitblasting -/
+
+def mulRec (l r : BitVec w) (s : Nat) : BitVec w :=
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:254]: Doc-string, please.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+  | 0 => cur
+  | s + 1 => mulRec l r s + cur
+
+theorem mulRec_zero_eq (l r : BitVec w) :
+    mulRec l r 0 = if r.getLsb 0 then l else 0 := by
+  simp [mulRec]
+
+theorem mulRec_succ_eq (l r : BitVec w) (s : Nat) :
+    mulRec l r (s + 1) = mulRec l r s + if r.getLsb (s + 1) then (l <<< (s + 1)) else 0 := by
+  simp [mulRec]
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:266]:
```suggestion
    mulRec l r (s + 1) = mulRec l r s + if r.getLsb (s + 1) then (l <<< (s + 1)) else 0 := rfl
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+
+theorem zeroExtend_truncate_succ_eq_zeroExtend_truncate_of_getLsb_false
+  {x : BitVec w} {i : Nat} {hx : x.getLsb i = false} :
+    zeroExtend w (x.truncate (i + 1)) =
+      zeroExtend w (x.truncate i) := by
+  ext k
+  simp only [getLsb_zeroExtend, Fin.is_lt, decide_True, Bool.true_and, getLsb_or, getLsb_and]
+  by_cases hik:i = k
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:274]:
```suggestion
  by_cases hik : i = k
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+theorem mulRec_zero_eq (l r : BitVec w) :
+    mulRec l r 0 = if r.getLsb 0 then l else 0 := by
+  simp [mulRec]
+
+theorem mulRec_succ_eq (l r : BitVec w) (s : Nat) :
+    mulRec l r (s + 1) = mulRec l r s + if r.getLsb (s + 1) then (l <<< (s + 1)) else 0 := by
+  simp [mulRec]
+
+theorem zeroExtend_truncate_succ_eq_zeroExtend_truncate_of_getLsb_false
+  {x : BitVec w} {i : Nat} {hx : x.getLsb i = false} :
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:269]:
```suggestion
  {x : BitVec w} {i : Nat} (hx : x.getLsb i = false) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+      zeroExtend w (x.truncate i) := by
+  ext k
+  simp only [getLsb_zeroExtend, Fin.is_lt, decide_True, Bool.true_and, getLsb_or, getLsb_and]
+  by_cases hik:i = k
+  · subst hik
+    simp [hx]
+  · by_cases hik' : k < i + 1 <;> simp [hik'] <;> omega
+
+theorem zeroExtend_truncate_succ_eq_zeroExtend_truncate_or_twoPow_of_getLsb_true
+    (x : BitVec w) (i : Nat) (hx : x.getLsb i = true) :
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:280]:
```suggestion
    {x : BitVec w} {i : Nat} (hx : x.getLsb i = true) :
```
unless there's specific reason not to.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+theorem zeroExtend_truncate_succ_eq_zeroExtend_truncate_add_twoPow (x : BitVec w) (i : Nat) :
+    zeroExtend w (x.truncate (i + 1)) =
+      zeroExtend w (x.truncate i) + (x &&& twoPow w i) := by
+  rw [add_eq_or_of_and_eq_zero]
+  · ext k
+    simp only [getLsb_zeroExtend, Fin.is_lt, decide_True, Bool.true_and, getLsb_or, getLsb_and]
+    by_cases hik:i = k
+    · subst hik
+      simp
+    · simp [hik]
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:301]: While `omega` can't do this, this is a nonterminal simp!

File: src/Init/Data/BitVec/Bitblast.lean (hunk 5 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Bitblast.lean:274]: and below.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+      /- Really, 'omega' should be able to do this-/
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:302]: `decide` is out of scope for `omega`, please remove.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Bitblast.lean:167]: and more below.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+    rw [mulRec_succ_eq, hs]
+    have heq :
+      (if r.getLsb (s' + 1) = true then l <<< (s' + 1) else 0) =
+        (l * (r &&& (BitVec.twoPow w (s' + 1)))) := by
+      simp only [ofNat_eq_ofNat, and_twoPow_eq]
+      by_cases hr : r.getLsb (s' + 1) <;> simp [hr]
+    rw [heq, ← BitVec.mul_add, ← zeroExtend_truncate_succ_eq_zeroExtend_truncate_add_twoPow]
+
+/-- Zero extending by number of bits larger than the bitwidth has no effect. -/
+theorem zeroExtend_of_ge {x : BitVec w} {i j : Nat} (hi : i ≥ w) :
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:334]:
```suggestion
theorem zeroExtend_zeroExtend_of_ge {x : BitVec w} {i j : Nat} (hi : i ≥ w) :
```

Comment (semorrison) [reply src/Init/Data/BitVec/Bitblast.lean:334]: Please move this back to `Lemmas`. Is it redundant with the existing lemma about repeated truncation?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -235,4 +249,104 @@ theorem sle_eq_carry (x y : BitVec w) :
...
+
+theorem mulRec_zero_eq (l r : BitVec w) :
+    mulRec l r 0 = if r.getLsb 0 then l else 0 := by
+  simp [mulRec]
+
+theorem mulRec_succ_eq (l r : BitVec w) (s : Nat) :
+    mulRec l r (s + 1) = mulRec l r s + if r.getLsb (s + 1) then (l <<< (s + 1)) else 0 := by
+  simp [mulRec]
+
+theorem zeroExtend_truncate_succ_eq_zeroExtend_truncate_of_getLsb_false
```
Comment (semorrison) [inline src/Init/Data/BitVec/Bitblast.lean:268]: Can all these `zeroExtend_truncate_*` lemmas live in `Lemmas`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -404,6 +414,28 @@ theorem msb_zeroExtend (x : BitVec w) : (x.zeroExtend v).msb = (decide (0 < v) &
...
+/-- zero extending a bitvector to width 1 equals the boolean of the lsb. -/
+theorem zeroExtend_one_eq_ofBool_getLsb_zero (x : BitVec w) :
+    x.zeroExtend 1 = BitVec.ofBool (x.getLsb 0) := by
+  ext i
+  simp [getLsb_zeroExtend, Fin.fin_one_eq_zero i]
+
+/-- `testBit 1 i` is true iff the index `i` equals 0. -/
+private theorem Nat.testBit_one_eq_true_iff_self_eq_zero {i : Nat} :
+    Nat.testBit 1 i = true ↔ i = 0 := by
+  cases i <;> simp
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:426]: Seems useful, can this just move to live with other testBit lemmas. It can be public, and perhaps even `@[simp]`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -404,6 +414,28 @@ theorem msb_zeroExtend (x : BitVec w) : (x.zeroExtend v).msb = (decide (0 < v) &
...
+
+/-- Zero extending `1#v` to `1#w` equals `1#w` when `v > 0`. -/
+theorem zeroExtend_ofNat_one_eq_ofNat_one_of_lt {v w : Nat} (hv : 0 < v):
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:429]:
```suggestion
theorem zeroExtend_ofNat_one_eq_ofNat_one_of_lt {v w : Nat} (hv : 0 < v) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -404,6 +414,28 @@ theorem msb_zeroExtend (x : BitVec w) : (x.zeroExtend v).msb = (decide (0 < v) &
...
+    (BitVec.ofNat v 1).zeroExtend w = BitVec.ofNat w 1 := by
+  ext i
+  obtain ⟨i, hilt⟩ := i
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:432]: You can combine these, `ext` can deconstruct.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 12 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:426]: Done.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:333]: I'm happy to move it back to lemmas. It's not clear how me how I use the lemma on `trunc`, since I can't immediate find an existing lemma that proves `truncate = zeroExtend`.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 11 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:267]: I thought about this --- they need lemmas about `or` and `and`, which occur after `zeroExtend` in the `Lemmas` file. I could add them to the bottom of the `Lemmas` file if you prefer.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 8 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:300]: Done.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 9 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:301]: Done.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Thanks for catching this!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 14 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Done, combined.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Bitblast.lean]:
```
abbrev truncate := @zeroExtend
```

You're welcome to add a `truncate_eq_zeroExtend` if it is helpful for rewriting.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 11 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Bitblast.lean:276]: Yes please. 
```
/-! ### zeroExtend, truncate, and bitwise operations -/
```

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:276]: Ah, in attempting the move, I realised that this also depends on  `add_eq_or_of_and_eq_zero`, which uses `add_eq_adc` that currently lives in `Bitblast.lean`, so this cannot be moved to `Lemmas.lean`, unfortunately.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Addressed.

**Comment by bollu** [comment]
awaiting-review

File: src/Init/Data/BitVec/Bitblast.lean (hunk 11 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Bitblast.lean:276]: Of course, no problem then.

Comment (semorrison) [reply src/Init/Data/BitVec/Bitblast.lean:276]: But some of the lemmas *below* can move, right?

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Ah, right! Moved.
